US08404684B2
AC2) 1-(6-Methyl-2-methylsulfanyl-pyrimidin-4-yl)-propan-2-one
n-Butyllithium (1.6 M in hexanes, 67 ml, 107 mmol) is added dropwise to a stirred solution of diisopropylamine (15 ml, 107 mmol) in dry THF (90 ml) under argon at −78° C. After 15 minutes at −78° C. to 50° C. the mixture is cooled to −78° C. and a solution of 4,6-dimethyl-2-methylsulfanyl-pyrimidine (15 g, 97.4 mmol) in dry THF (45 ml) is added dropwise. The reaction is stirred for 2.5 hours at −78° C. then N-methoxy-N-methylacetamide (10.4 ml, 97.4 mmol) is added dropwise. The reaction is allowed to warm to room temperature over 1 hour followed by quenching with saturated aqueous ammonium chloride solution (10 ml). The mixture is concentrated to remove most of the THF then partitioned between water (200 ml) and DCM (200 ml). The organic extract is separated, dried (MgSO4), and the solvent is removed to afford the titled compound. The material is a mixture of keto and enol forms as observed by 1H nmr (CDCl3)

reactant | n-Butyllithium | 107 mmol, 1.6 M, 67 ml | C(CCC)[Li]
reactant | diisopropylamine | 107 mmol, 15 ml | C(C)(C)NC(C)C | C6H15N
reactant | 4,6-dimethyl-2-methylsulfanyl-pyrimidine | 97.4 mmol, 15 g | CC1=NC(=NC(=C1)C)SC | C7H10N2S
reactant | N-methoxy-N-methylacetamide | 97.4 mmol, 10.4 ml | CON(C(C)=O)C | C4H9NO2
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 45 ml | C1CCOC1 | C4H8O
product | 1-(6-Methyl-2-methylsulfanyl-pyrimidin-4-yl)-propan-2-one | CC1=CC(=NC(=N1)SC)CC(C)=O | C9H12N2OS
